US08685977B2
4-[4-chloro-3-(trifluoromethyl)phenoxy]benzamide
To a solution of 4-[4-chloro-3-(trifluoromethyl)phenoxy]benzonitrile (Preparation 47, 48 g, 161 mmol) in DMSO (500 ml) was added K2CO3 (45 g, 323 mmol) followed by dropwise addition of a 30 wt % aqueous hydrogen peroxide solution (27 ml, 806 mmol) at 15° C. The reaction mixture was stirred for 1 hour at room temperature and the mixture was poured into water (500 ml) to afford a preciptate. The precipitated solid was collected by filtration, azeotroped with toluene, and dried over in vacuo to give 51 g of titled compound.

reactant | 4-[4-chloro-3-(trifluoromethyl)phenoxy]benzonitrile | 161 mmol, 48 g | ClC1=C(C=C(OC2=CC=C(C#N)C=C2)C=C1)C(F)(F)F | C14H7ClF3NO
reactant | K2CO3 | 323 mmol, 45 g | C(=O)([O-])[O-].[K+].[K+]
reactant | hydrogen peroxide | 806 mmol, 27 ml | OO | H2O2
reactant | water | 500 ml | O | H2O
solvent | DMSO | 500 ml | CS(=O)C | C2H6OS
product | 4-[4-chloro-3-(trifluoromethyl)phenoxy]benzamide | 51 g | ClC1=C(C=C(OC2=CC=C(C(=O)N)C=C2)C=C1)C(F)(F)F | C14H9ClF3NO2
